US07977372B2
(S,S)-N,N′-Dibenzyl-cyclohexane-1,2-diamine
Benzaldehyde (6.36 g, 60 mmol) was added dropwise over a period of 2 minutes to a solution of (S,S)-cyclohexane-1,2-diamine (3.42 g, 30 mmol) in 50 mL of anhydrous MeOH at refluxing temperature. After stirring for 30 min, the solution was allowed to cool to room temperature and NaBH3CN (2.4 g, 63 mmol) was added in portions. After the vigorous effervescence subsided down, the mixture was brought to refluxing and stirred for 20 min. The reaction was quenched by water and extracted with dichloromethane. The organic phase was dried and concentrated to give 8.5 g of crude product (yield 95%) which was used in the next step reaction without further purification.

reactant | Benzaldehyde | 60 mmol, 6.36 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | (S,S)-cyclohexane-1,2-diamine | 30 mmol, 3.42 g | [C@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | NaBH3CN | 63 mmol, 2.4 g | [BH3-]C#N.[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | (S,S)-N,N′-Dibenzyl-cyclohexane-1,2-diamine | 8.5 g, yield 95% | C(C1=CC=CC=C1)N[C@@H]1[C@H](CCCC1)NCC1=CC=CC=C1 | C20H26N2
